US09145429B2
1p. 5-Chloro-6-(1-hydroxy-7-methyl-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(4-oxopentyloxy)nicotinonitrile D246
This compound was prepared from 5,6-dichloro-2-(4-oxopentyloxy)nicotinonitrile and 7-methylbenzo[c][1,2]oxaborole-1,5(3H)-diol in a similar manner to that of D230. 1H-NMR (400 MHz, DMSO-d6) δ (ppm) 1.67-1.71 (m, 2H), 2.02 (s, 3H), 2.33 (t, J=5.4 Hz, 2H), 2.44 (s, 3H), 4.01 (t, J=5.3 Hz, 2H), 4.95 (s, 2H), 7.0 (s, 1H), 7.07 (s, 1H), 8.56 (s, 1H), 9.0 (s, 1H).

reactant | 5,6-dichloro-2-(4-oxopentyloxy)nicotinonitrile | ClC=1C(=NC(=C(C#N)C1)OCCCC(C)=O)Cl | C11H10Cl2N2O2
reactant | 7-methylbenzo[c][1,2]oxaborole-1,5(3H)-diol | CC1=CC(=CC2=C1B(OC2)O)O | C8H9BO3
product | 5-Chloro-6-(1-hydroxy-7-methyl-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(4-oxopentyloxy)nicotinonitrile | ClC=1C(=NC(=C(C#N)C1)OCCCC(C)=O)OC1=CC2=C(B(OC2)O)C(=C1)C | C19H18BClN2O5
